US05380721
The product was prepared by procedures which are well known in the art, that is, by the alkylation of 4-nitro-2-methylphenol (2. 508 g, 0. 0164 mol) with ethyl bromoacetate (3.00 g, 0.018 mol) in acetonitrile (50 mL) in the presence of potassium carbonate (2.76 g) to afford ethyl 4-nitro-2-methylphenoxyacetate (4.0 g, 100%); hydrogenation of the latter (4.0 g, 0.0164 mol) in ethanol (250 mL) in the presence of 10% palladium on carbon (1.0 g) to afford ethyl 4-amino-2-methylphenoxyacetate; which was then dissolved in CH2Cl2 (50 mL) and treated with pyridine (4.0 mL), followed by methanesulfonyl chloride (1.88 g) in CH2Cl2 (5.0 mL) to afford 3.27 g (69.4%) of N-[4-(ethoxycarbonylmethoxy)-3-(methyl) phenyl]methanesulfonamide, m.p. 83°-84 ° C., after purification by column chromatography on silica.

reactant | 4-nitro-2-methylphenol | 508 g | [N+](=O)([O-])C1=CC(=C(C=C1)O)C | C7H7NO3
reactant | ethyl bromoacetate | 0.018 mol, 3.00 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | ethyl 4-nitro-2-methylphenoxyacetate | 4.0 g, 100% | [N+](=O)([O-])C1=CC(=C(OCC(=O)OCC)C=C1)C | C11H13NO5
